US09340510B2
6-Benzyloxy-4-oxo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To 500 mg (1.41 mmol) 6-benzyloxy-4-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (example XL) in 8 mL DCM are added 618 mg (1.41 mmol) Dess-Martin periodinane and stirred at r.t. over night. After that time, the reaction mixture is diluted with water and extracted with DCM. The organic layer is concentrated by evaporation and the residue is purified by HPLC (ACN/H2O/HCOOH).

reactant | 6-benzyloxy-4-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.41 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)O)OCC1=CC=CC=C1 | C21H25NO4
reactant | Dess-Martin periodinane | 1.41 mmol, 618 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 6-Benzyloxy-4-oxo-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C(C1)=O)OCC1=CC=CC=C1 | C21H23NO4
